Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
L eye swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with no significant PMH who presents with L eye pain, 
diffuse rash, fevers, joint pains and leukocytosis. He reports 
that he first noticed on ___ evening that he had a patch of 
skin behind his L knee that felt numb, but he did not think much 
of it initially. Then on ___ during the day he developed L 
knee pain. He also developed pain in his L middle finger and L 
shoulder. His L eye started to swell as well and he is having 
associated blurry vision. ___ night he felt feverish and 
sweaty. He is also having an associated L sided headache. ___ 
morning his roommate noticed that his L eye was swollen so he 
suggested he go to the ED. 

In the ED his vital signs were stable (98.6 99 141/71 16 99% 
RA). His labs were notable for WBC 17.5 (71% PMNs, no bands), 
CRP 70.8, ALT 111, all other labs including tox screens 
negative/unremarkable. While waiting in the ED he developed a 
rash. Neurology was consulted in the ED and recommended getting 
NCHCT, MRI/MRA/MRV brain which were all normal on wet read. He 
also had a normal CXR. He did not receive any medications in the 
ED.

Upon arrival to the floor the patient says he is having 
persistent L sided headache, L knee pain, L shoulder pain, and L 
middle finger pain. He does not have any pain at rest, but he 
has pain with movement. It is a dull pain that does not radiate. 
He is also endorsing some throat tenderness with swallowing. He 
is also having some blurry vision and says that his L eye seems 
"cloudy", but denies double vision. He no longer feels feverish. 
He also denies CP, SOB, N/V/D, weight gain/loss. He does not 
recall any sick contacts. He has not been outside much and does 
not recall any tick bites.
 

 
Past Medical History:
Seasonal allergies  
Tobacco use disorder  
 
 
Social History:
___
Family History:
Mother- HTN, migraines, soft tissue sarcoma  
Father- CHF, T2DM  
Sister anxiety  
 
 
Physical ___:
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: T98.0, 120s-130s/70s-80s, 80s, 18, 98%RA 
General: Alert, NAD  
HEENT: atraumatic, normocephalic, MMM, PERRL, EOMI but pain with 
lateral gaze   
CV: RRR, no murmurs, rubs, or gallops  
Lungs: CTAb, no wheezes, ronchi, rales or crackles. No increased 
work of breathing 
Abdomen: NABS, soft, NT, ND 
GU: No foley  
Ext: Warm, well perfused, no peripheral edema appreciated
Neuro: CN II-XII intact, ___ strength bilateral upper and lower 
extremities, diminished sensation L posterior/lateral knee and L 
perioral area 
Skin: multiple 2-5cm flat, pink circular lesions without central 
clearing, that are tender to palpation. The lesions are on his 
arms, legs, and the tops of his feet. It spares his abdomen, 
palms, soles, and face.

DISCHARGE PHYSICAL EXAM:
=========================
Vital Signs: Tm 98.7, 120s/80s, 60s, 19, 99%RA
General: Alert, NAD  
HEENT: atraumatic, normocephalic, MMM, PERRL, EOMI, L eye looks 
subjectively  
CV: RRR, no murmurs, rubs, or gallops  
Lungs: CTAB
Abdomen: NABS, soft, NT, ND 
GU: No foley  
Ext: Warm, well perfused, no peripheral edema appreciated
Neuro: AAOx3, grossly intact
Skin: lesions on shins decreased in size as compared to ___
 
Pertinent Results:
ADMISSION LABS:
================
___ 07:25PM BLOOD WBC-17.5* RBC-5.02 Hgb-15.7 Hct-46.4 
MCV-92 MCH-31.3 MCHC-33.8 RDW-12.5 RDWSD-42.5 Plt ___
___ 07:25PM BLOOD Neuts-71.2* ___ Monos-6.9 
Eos-0.7* Baso-0.2 Im ___ AbsNeut-12.45* AbsLymp-3.60 
AbsMono-1.21* AbsEos-0.13 AbsBaso-0.04
___ 07:25PM BLOOD ___ PTT-30.1 ___
___ 07:25PM BLOOD Plt ___
___ 07:25PM BLOOD Glucose-91 UreaN-18 Creat-0.9 Na-137 
K-4.4 Cl-101 HCO3-24 AnGap-16
___ 07:25PM BLOOD ALT-111* AST-39 CK(CPK)-41* AlkPhos-103 
TotBili-0.5
___ 07:25PM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.4 Mg-2.0
___ 07:25PM BLOOD HBsAb-Negative HBcAb-Negative
___ 07:25PM BLOOD ___ CRP-70.8*
___ 07:25PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 07:25PM BLOOD HCV Ab-Negative
___ 11:00PM BLOOD Lactate-1.3

MICRO:
=======
___ 8:45 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 11:45 am URINE

                            **FINAL REPORT ___

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___: 
      Negative for Chlamydia trachomatis by PANTHER System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___: 
      Negative for Neisseria gonorrhoeae by ___ System, 
APTIMA COMBO 2
      Assay. 
      Validated for use on Urine Samples by the ___ 
Microbiology
      Laboratory. Performance characteristics on urine samples 
were found
      to be equivalent to those of FDA- approved TIGRIS APTIMA 
COMBO 2
      and/or COBAS Amplicor methods. 

___ 11:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 7:25 pm SEROLOGY/BLOOD
      ETOH CANNOT BE ADDED ON DUE TO BLOOD IS TOO OLD. 

   RPR w/check for Prozone (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

   Lyme IgG (Pending): 

   Lyme IgM (Pending): 

___ 7:25 pm SEROLOGY/BLOOD
      ETOH CANNOT BE ADDED ON DUE TO BLOOD IS TOO OLD. 

                            **FINAL REPORT ___

   ASO Screen (Final ___: 
      POSITIVE by Latex Agglutination. 
      Reference Range:  < 200 IU/ml (Adults and children > ___ 
years old). 

   ASO TITER (Final ___: 
      POSITIVE 400-800 IU/ml. 
      Performed by latex agglutination. 
      Reference Range:  < 200 IU/ml (Adults and children > ___ 
years old). 

IMAGING:
=========
___ CT HEAD W/O CONTRAST 
No acute intracranial process. 

___ CHEST (PA & LAT) 
No acute cardiopulmonary process.

___ CTA HEAD AND CTA NECK 
1. Normal head and neck CTA. 
2. Prominent Level II, III, and IV cervical lymph nodes 
bilaterally without meeting CT size criteria for 
lymphadenopathy. 

___ MRI & MRA BRAIN 
1. No evidence of infarction or hemorrhage. 
2. No evidence of venous thrombosis. 

DISCHARGE LABS:
================
___ 08:00AM BLOOD WBC-7.5# RBC-5.13 Hgb-16.0 Hct-47.1 
MCV-92 MCH-31.2 MCHC-34.0 RDW-12.2 RDWSD-41.0 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Glucose-90 UreaN-14 Creat-0.8 Na-141 
K-4.1 Cl-104 HCO3-25 AnGap-16
___ 08:00AM BLOOD LD(LDH)-214
___ 08:00AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
___ 08:00AM BLOOD ANCA-PND
___ 03:38PM BLOOD RheuFac-16*
___ 08:00AM BLOOD CMV VL-PND
___ 11:20AM BLOOD HIV1 VL-NOT DETECT
 
Brief Hospital Course:
___ with no significant past medical history who presented with 
left eye pain, blanchable erythematous rash mainly on the lower 
extremities consistent with erythema nodosum, fevers, and mostly 
left-sided myalgia/arthralgia and numbness. Left-sided 
periorbital edema without major underlying imaging findings and 
no significant evidence for preseptal or postseptal cellulitis. 
Per ophthalmology, bedside eye exam with no concerning findings. 
Symptoms are possibly related to a viral syndrome. ASO titer 
notably elevated; per ID this is less likely related to active 
strep infection given improvement of symptoms without 
antibiotics. Given patient was clinically well-appearing and 
symptoms improved without intervention, decision was to 
discharge home with close follow up with PCP, infectious 
disease, and rheumatology. At time of discharge, there was no 
unifying diagnosis of the multiple symptoms as most laboratory 
tests were pending.

 
ACTIVE ISSUES:  
#Rash
#Leukocytosis
#Joint pain
#Eye pain and blurry vision
Differential broadly included infections and 
inflammatory/autoimmune causes. ASO positive, could indicate 
rheumatic fever, but unclear significance of positive ASO. HIV 
Ab negative, but HIV viral load was still pending on discharge. 
Other infectious studies including lyme, GC/CT were also pending 
on discharge. Could also be inflammatory/autoimmune; however, he 
was improving without any interventions. ___, ACE, ANCA all 
pending on discharge. ID, Rheum and Neuro were all consulted. He 
is planned to follow up with rheumatology as an outpatient. His 
symptoms were resolving, he was not receiving any interventions 
in the hospital, and he was eager to be discharged so he was 
discharged home with outpatient follow up.

 
***TRANSITIONAL ISSUES:***
- Follow up with PCP within ___ week to ensure resolution of 
symptoms
- Follow up in ID and ___ clinic within a week
- Follow up pending labs, including blood culture, lyme 
serology, urine gonorrhea and chlamydia, throat gonorrhea and 
chlamydia, coccidioides antibodies, adenovirus, EBV, ACE, RF, 
ESR, anti-CCP, and HIV viral load

# CODE: full (confirmed) 
# CONTACT: ___ (sister) ___
 
Medications on Admission:
No medications
 
Discharge Medications:
No medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Systemic symptoms NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having eye swelling, 
joint pain, and a new rash.

What happened to you during your hospital stay?
- You were evaluated by neurology. Brain imaging did not show 
any abnormalities.
- You were also evaluated by the infectious disease team who 
recommended many laboratory tests, most of which were pending at 
the time of discharge.
- The eye doctor examined your eye and there were no alarming 
findings.
- Your symptoms improved without any medication or intervention.

What should you do when you leave the hospital?
- You should follow up with your primary care doctor, as well as 
the infectious disease doctor and rheumatologist. You have a lot 
of pending labs which need to be reviewed.
- Should you have any fever, worsening rash, or any concerning 
symptoms, please call your primary provider or come back to the 
Emergency Department.

It was a pleasure taking care of you!

Your ___ team

 
Followup Instructions:
___